US07741327B2
A solution of 3-(3-chloro-2-fluoro-phenoxy)-but-2-enoic acid ethyl ester (1.41 g, 5.45 mmol) in carbon tetrachloride (30 mL) was treated with N-bromosuccinimide (1.07 g, 6.01 mmol) and benzoyl peroxide (0.15 g). The reaction was then warmed to reflux for 5 h. At this time, the reaction was cooled to 25° C. and then placed in the freezer over the weekend. At this time, the reaction was removed from the freezer and allowed to thaw. The resulting precipitate was removed by filtration. The filtrate was concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 1-10% ethyl acetate/hexanes) afforded impure 4-bromo-3-(3-chloro-2-fluoro-phenoxy)-but-2-enoic acid ethyl ester (1.59 g, 86%) as a white solid. The material was used without further purification.

reactant | 3-(3-chloro-2-fluoro-phenoxy)-but-2-enoic acid ethyl ester | 5.45 mmol, 1.41 g | C(C)OC(C=C(C)OC1=C(C(=CC=C1)Cl)F)=O | C12H12ClFO3
reactant | N-bromosuccinimide | 6.01 mmol, 1.07 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.15 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-3-(3-chloro-2-fluoro-phenoxy)-but-2-enoic acid ethyl ester | 1.59 g, 86% | C(C)OC(C=C(CBr)OC1=C(C(=CC=C1)Cl)F)=O | C12H11BrClFO3
